US05175301
6-Bromo-3-pyridylmethylamine
The reaction procedure of Reference Example 3 was repeated except that N-(6-bromo-3-pyridylmethyl)phthalimide was used in lieu of N-(6-chloro-3-pyridylmethyl)phthalimide, to give the title compound as pale yellow crystals.

reactant | N-(6-bromo-3-pyridylmethyl)phthalimide | BrC1=CC=C(C=N1)CN1C(C=2C(C1=O)=CC=CC2)=O | C14H9BrN2O2
reactant | N-(6-chloro-3-pyridylmethyl)phthalimide | ClC1=CC=C(C=N1)CN1C(C=2C(C1=O)=CC=CC2)=O | C14H9ClN2O2
product | 6-Bromo-3-pyridylmethylamine | BrC1=CC=C(C=N1)CN | C6H7BrN2
